US05055225
6.54 g of p-benzyloxybenzoic acid was heated under reflux together with 12.5 g of thionyl chloride in 40 ml of carbon tetrachloride for 3 hours. Then the unreacted thionyl chloride and carbon tetrachloride were distilled off to obtain a yellow oily residue. A solution obtained by dissolving 1.64 g of (S)-2-methylbutyl alcohol in 40.0 ml of toluene was added to the oily residue and the resulting mixture was heated under reflux for 3 hours. After completion of the reaction, 30.0 ml of ethyl acetate and 100 ml of 5 wt% hydrochloric acid were added to the reaction mixture to extract the reaction product with the ethyl acetate. Further, the ethyl acetate phase was washed with 100 ml of a 5 wt% aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt and then dried over anhydrous sodium sulfate. The ethyl acetate was distilled off and the residue was subjected to silica gel column chromatography with a mixture of n-hexane and ethyl acetate (mixing ratio: 10/1 by volume) as an eluent. Thus 4.49 g of an colorless oily substance was obtained. Then the oily substance was dissolved in 15 ml of ethanol and heated under reflux in the presence of 6.75 g of cyclohexene and 0.45 g of palladium black for 1 hour. Then the palladium black was removed by filtering the reaction mixture and the ethanol and cyclohexene were distilled off. The colorless oily substance thus obtained was dissolved in 80.0 ml of toluene, washed with 20.0 ml of water and dried over anhydrous sodium sulfate. The toluene was distilled off to thereby obtain 2.99 g of (S)-2-methylbutyl 4 hydroxybenzoate (yield: 93%). Next, 0.80 g of p-benzyloxybenzoic acid was heated under reflux together with 4.17 g of thionyl chloride in 15 ml of carbon tetrachloride for 3 hours. Then the unreacted thionyl chloride and carbon tetrachloride were distilled off to obtain yellow oily substance. A solution prepared by dissolving 0.73 g of the above prepared (S)-2-methylbutyl 4-hydroxybenzoate in 7.00 ml of toluene was added to the oily substance. Further, 3.50 g of pyridine was added and the resulting mixture was stirred at 80° C. for 3 hours. After completion of the reaction, 30.0 ml of ethyl acetate and 50.0 ml of 5 wt% hydrochloric acid were added to extract the reaction product with the ethyl acetate. The ethyl acetate phase was washed with 50.0 ml of a 5 wt% aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of common salt and dried over anhydrous sodium sulfate. The ethyl acetate was distilled off and the residue was recrystallized from methanol to obtain 0.89 g of 4-((S)-2-methylbutoxycarbonyl)phenyl 4-benzyloxybenzoate. Then this product was dissolved in 10.0 ml of ethanol and heated under reflux in the presence of 1.01 g of cyclohexene and 0.18 g of palladium black for 1 hour. The palladium black was removed by filtering the reaction mixture and the ethanol and cyclohexene were distilled off. Thus 0.69 g of 4-((S)-2-methylbutoxycarbonyl)phenyl 4-hydroxybenzoate was obtained.

reactant | p-benzyloxybenzoic acid | 0.80 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | thionyl chloride | 4.17 g | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-2-methylbutyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC[C@H](CC)C)C=C1 | C12H16O3
reactant | hydrochloric acid | Cl | ClH
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | toluene | 7.00 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30.0 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 3.50 g | N1=CC=CC=C1 | C5H5N
product | 4-((S)-2-methylbutoxycarbonyl)phenyl 4-benzyloxybenzoate | 0.89 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC2=CC=C(C=C2)C(=O)OC[C@H](CC)C)C=C1 | C26H26O5
